US09388189B2
a) N-(4-Bromo-1H-indazol-6-yl)methanesulfonamide
4-Bromo-1H-indazol-6-amine (500 mg, 2.36 mmol) was treated with methanesulfonyl chloride (130 μl, 1.68 mmol) and triethylamine (49 μl, 3.55 mmol) according to the method described in Preparation 15b. The residue was purified using SP1® Purification System to give 300 mg (49% yield) of the title compound. Purity 80%.

reactant | 4-Bromo-1H-indazol-6-amine | 2.36 mmol, 500 mg | BrC1=C2C=NNC2=CC(=C1)N | C7H6BrN3
reactant | methanesulfonyl chloride | 1.68 mmol, 130 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 3.55 mmol, 49 μl | C(C)N(CC)CC | C6H15N
product | N-(4-Bromo-1H-indazol-6-yl)methanesulfonamide | 300 mg, 49% yield | BrC1=C2C=NNC2=CC(=C1)NS(=O)(=O)C | C8H8BrN3O2S
